US07902356B2
1-(6-Nitro-1H-indol-3-yl)-2-pyrrolidin-1-yl-ethane-1,2-dione
Add oxalyl chloride (11.6 g, 90.6 mmol) dropwise to a solution of 6-nitroindole (10.6 g, 65.4 mmol) in ether (100 mL). Stir at room temperature for 18 h, filter the precipitate formed, and dry. Dissolve the precipitate in CH2Cl2 (100 mL), cool to −20° C., and add pyrrolidine (16.0 mL, 191.5 mmol) dropwise. Warm to room temperature and stir for 2 h. Filter the solid from the reaction, wash several times with ether, and dry to give the title compound (8.5 g, 45%). MS (ES+) 288 (M+1)+.

reactant | oxalyl chloride | 90.6 mmol, 11.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-nitroindole | 65.4 mmol, 10.6 g | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | pyrrolidine | 191.5 mmol, 16.0 mL | N1CCCC1 | C4H9N
solvent | ether | 100 mL | CCOCC | C4H10O
product | 1-(6-Nitro-1H-indol-3-yl)-2-pyrrolidin-1-yl-ethane-1,2-dione | 8.5 g, 45% | [N+](=O)([O-])C1=CC=C2C(=CNC2=C1)C(C(=O)N1CCCC1)=O | C14H13N3O4
